US04673686
N-(1-cycloheptyl-methyl-2-pyrrolidinyl methyl)-2-methoxy-4-amino-5-methyl-sulphamoyl benzamide
6.5 g of 2-methoxy-4-amino-5-methyl sulphamoyl benzoic acid, 75 ml of acetone, 14 ml of water and 3.5 ml of triethylamine (density 0.726) are placed in a 250 ml flask fitted with an agitator, a thermometer, a condenser and a dropping funnel. The solution is cooled to between 0° and +5° C. and 2.7 g of ethyl chloroformate is added drop by drop. The reaction medium is agitated for 45 minutes at room temperature then cooled to 0° C. again. 6.8 g of 1-cycloheptyl methyl-2-amino methyl pyrrolidine is added drop by drop. The medium is reacted for 2 hours then left to stand. The solvents are expelled and the solid residue dissolved in 50 ml of water and 20 ml of hydrochloric acid (density 1.18). The suspension obtained is made alkaline with ammonia. It is extracted 3 times with 50 ml of methylene chloride. The organic phase is washed twice with 50 ml of water, dried over magnesium sulphate and filtered. The filtrate is evaporated to dryness under vacuum. The residue is dissolved in 80 ml of water and 20 ml of hydrochloric acid (density 1.18). The hydrochloride crystallises. It is drained, washed with water and dried in an oven at 50° C.

reactant | 2-methoxy-4-amino-5-methyl sulphamoyl benzoic acid | 6.5 g | COC1=C(C(=O)O)C=C(C(=C1S(N)(=O)=O)N)C | C9H12N2O5S
reactant | ethyl chloroformate | 2.7 g | ClC(=O)OCC | C3H5ClO2
reactant | 1-cycloheptyl methyl-2-amino methyl pyrrolidine | 6.8 g | C1(CCCCCC1)N1C(CCC1)(CN)C | C13H26N2
reactant | ammonia | N | H3N
solvent | water | 50 ml | O | H2O
solvent | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | 14 ml | O | H2O
solvent | triethylamine | 3.5 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | 75 ml | CC(=O)C | C3H6O
product | N-(1-cycloheptyl-methyl-2-pyrrolidinyl methyl)-2-methoxy-4-amino-5-methyl-sulphamoyl benzamide | C1(CCCCCC1)N1C(CCC1)C(NC(C1=C(C(=C(C(=C1)C)N)S(N)(=O)=O)OC)=O)C | C22H36N4O4S
